US05719152
4) Diethyl 2-(3-phthalimidomethyl-6-nitrophenyl)ethylmalonate
A mixture of diethyl 2-(3-methyl-6-nitrophenyl)ethylmalonate (2.7 g, 8.35 mmol), N-bromosuccinimide (1.63 g, 9.19 mmol), and azobisisobutyronitrile (100 mg) in carbon tetrachloride (35 mL) was refluxed for 14 h, while 3×50 mg of AlBN were added every 3 h during the reaction. The insoluble material formed was removed by filtration and the filtrate was concentrated. The residue was dissolved in DMF (100 mL) and potassium phthalimide (1.3 g, 7.02 mmol) was added. The mixture was stirred for 5 h at 4°~50° C., poured into saturated sodium bicarbonate, and extracted with a 1:1 mixture of toluene and ethyl acetate. The organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 4:1 hexane/ethyl acetate to give 580 mg of the title compound (15%).

reactant | diethyl 2-(3-methyl-6-nitrophenyl)ethylmalonate | 8.35 mmol, 2.7 g | CC=1C=C(C(=CC1)[N+](=O)[O-])CCC(C(=O)OCC)C(=O)OCC | C16H21NO6
reactant | N-bromosuccinimide | 9.19 mmol, 1.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | azobisisobutyronitrile | 50 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | potassium phthalimide | 7.02 mmol, 1.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 35 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Diethyl 2-(3-phthalimidomethyl-6-nitrophenyl)ethylmalonate | 580 mg, 15% | C1(C=2C(C(N1CC=1C=C(C(=CC1)[N+](=O)[O-])CCC(C(=O)OCC)C(=O)OCC)=O)=CC=CC2)=O | C24H24N2O8
